US06949542B2
3-[3-(2-Methyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from 3-(2-methyl-pyridin-3-yl)-benzoic acid methyl ester [prepared by the following procedure: A mixture of 3-carboxyphenylboronic acid (3.96 g, 23.85 mmol), 3-bromo-2-methylpyridine (5.23 g, 21.68 mmol) and K3PO4 (7.60 g, 35.78 mmol) in dioxane (112 mL) was degassed and Pd(Ph3P)4 (1.37 g, 1.2 mmol) was added. The reaction mixture was refluxed for 5 h, evaporated to dryness. The residue was suspended in MeOH (320 mL) and SOCl2 (7.87 mL, 108.4 mmol) was added dropwise at 23° C. and the reaction mixture was refluxed for 16 h. Evaporated to dryness, taken up in EtOAc, washed with sat. NaHCO3-solution and brine, dried over Na2SO4. Removal of the solvent in vacuum left a brown solid, which was purified by silica gel column chromatography with cyclohexane/EtOAc.] (2.65 g, 11.66 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a colorless oil (2.62 g).

reactant | 3-(2-methyl-pyridin-3-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1C(=NC=CC1)C)=O | C14H13NO2
reactant | 3-carboxyphenylboronic acid | 23.85 mmol, 3.96 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | 3-bromo-2-methylpyridine | 21.68 mmol, 5.23 g | BrC=1C(=NC=CC1)C | C6H6BrN
reactant | K3PO4 | 35.78 mmol, 7.60 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | SOCl2 | 108.4 mmol, 7.87 mL | O=S(Cl)Cl | Cl2OS
reactant | dioxane | 112 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 1.2 mmol, 1.37 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[3-(2-Methyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C(=NC=CC1)C)=O | C19H21NO3
